US09079919B2
A solution of 6-bromo-3,4-dihydro-2H-naphthalen-1-one (CAS[66361-67-9]) (0.9 g, 4.00 mmol) in dichloromethane (8 ml) was cooled to 0° C. and treated with 1,2-ethandithiol (769 mg, 686 μl, 8.00 mmol) and boron trifluoro etherate (284 mg, 247 μl, 2.00 mmol). The reaction mixture was left to warm to room temperature and stirred for 15 hours. For the workup, the reaction mixture was poured into a solution of sodium hydroxide (1N) followed by extraction with dichloromethane (40 ml). The organic layer was dried over sodium sulphate and evaporated. The crude product was purified by chromatography on silica gel using a gradient of heptane/ethyl acetate=100:0 to 70:30 as the eluent. The 6′-bromo-3′,4′-dihydro-2′H-spiro[[1,3]dithiolane-2,1′-naphthalene] (1.06 g, 88% yield) was obtained as a light red oil.

reactant | 6-bromo-3,4-dihydro-2H-naphthalen-1-one | 4.00 mmol, 0.9 g | BrC=1C=C2CCCC(C2=CC1)=O | C10H9BrO
reactant | 1,2-ethandithiol | 8.00 mmol, 686 μl, 769 mg | C(CS)S | C2H6S2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 6′-bromo-3′,4′-dihydro-2′H-spiro[[1,3]dithiolane-2,1′-naphthalene] | 1.06 g, 88% yield | BrC=1C=C2CCCC3(C2=CC1)SCCS3 | C12H13BrS2
